US05143910
A solution of 3,4-dihydroxy-6-chlorobenzoic acid (48 g: 250 mMol.) in a mixture of toluene (180 ml) and ethanol (180 ml) is heated under reflux under Dean Stark apparatus filled with Molecular Sieves for 12 hours. The reaction mixture is cooled and washed with aqueous sodium hydrogen carbonate and water, dried and concentrated under reduced pressure to give 6-chloro-3,4-dihydroxybenzoic acid ethyl ester (52.7 g). Yield: 95%.

reactant | 3,4-dihydroxy-6-chlorobenzoic acid | 250 mMol, 48 g | OC=1C=C(C(=O)O)C(=CC1O)Cl | C7H5ClO4
reactant | toluene | 180 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 180 ml | C(C)O | C2H6O
product | 6-chloro-3,4-dihydroxybenzoic acid ethyl ester | 52.7 g, Yield: 95% | C(C)OC(C1=CC(=C(C=C1Cl)O)O)=O | C9H9ClO4
